US07226923B2
6-Bromo-2-(4-tert-butyl-phenyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-2H-phthalazin-1-one
15 mg of 6-Bromo-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one were heated in formic acid for 5 hrs at 90° C., then evaporated and chromatographed on silica (dichloromethane, then dichloromethane/methanol 40:1). Yield 10 mg. 1H-NMR: (400 MHz, D6-DMSO) 9.33 (1H, br s), 8.86 (1H, br s), 8.26 (1H, d), 8.80 (1H, d) 7.62 (2H, d), 7.51 (2H, d), 6.26 (1H, s), 2.20 (3H, s), 1.35 (9H, s); MS (ESI+)=452.35 (M+H)+.

reactant | 6-Bromo-4-(2-tert-butyl-5-methyl-2H-pyrazol-3-ylamino)-2-(4-tert-butyl-phenyl)-2H-phthalazin-1-one | 15 mg | BrC=1C=C2C(=NN(C(C2=CC1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1N(N=C(C1)C)C(C)(C)C | C26H30BrN5O
solvent | formic acid | C(=O)O | CH2O2
product | 6-Bromo-2-(4-tert-butyl-phenyl)-4-(5-methyl-2H-pyrazol-3-ylamino)-2H-phthalazin-1-one | BrC=1C=C2C(=NN(C(C2=CC1)=O)C1=CC=C(C=C1)C(C)(C)C)NC=1NN=C(C1)C | C22H22BrN5O
